US05254578
trans-3,4-Dihydro-2.2-dimethyl-4-(7-nitro-1-oxoisoindolin-2-yl)-6-trifluoromethylsulfonyl-2H-1-benzopyran-3-ol (Compound No. 1-14)
Following the procedure and working up described in Example 10, but using 0.326 g of trans-4-amino-3,4-dihydro-2,2-dimethyl-6-trifluoromethylsulfonyl-2H-1-benzopyran-3-ol (prepared from its hydrochloride, in turn prepared as described in Preparation 9), 0.224 g of methyl 2-formyl-6-nitrobenzoate, 0.164 g of zinc chloride and 0.075 g of sodium cyanoborohydride, 0.391 g of the title compound, melting at 283°-284° C., were obtained.

reactant | trans-4-amino-3,4-dihydro-2,2-dimethyl-6-trifluoromethylsulfonyl-2H-1-benzopyran-3-ol | 0.326 g | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)S(=O)(=O)C(F)(F)F)(C)C)O | C12H14F3NO4S
reactant | methyl 2-formyl-6-nitrobenzoate | 0.224 g | C(=O)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C9H7NO5
reactant | sodium cyanoborohydride | 0.075 g | C(#N)[BH3-].[Na+]
catalyst | zinc chloride | 0.164 g | [Cl-].[Zn+2].[Cl-]
product | trans-3,4-Dihydro-2.2-dimethyl-4-(7-nitro-1-oxoisoindolin-2-yl)-6-trifluoromethylsulfonyl-2H-1-benzopyran-3-ol | 0.391 g | CC1(OC2=C([C@H]([C@@H]1O)N1C(C3=C(C=CC=C3C1)[N+](=O)[O-])=O)C=C(C=C2)S(=O)(=O)C(F)(F)F)C | C20H17F3N2O7S
